US07439368B2
3-Bromo-4-hydroxybenzoic acid (4-morpholinyl)amide (286 mg, 1 mmol) is suspended in dimethylacetamide (2.9 mL), and thereto are added zinc cyanide (70 mg, 0.6 mmol), 10% Pd/C (53 mg, 0.05 mmol), zinc (36 mg, 0.56 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (28 mg, 0.05 mmol), followed by deaeration under reduced pressure for nitrogen-displacement (×3). The reaction mixture is heated at 150-155° C. and stirred for 1 hour. After cooling, the insoluble materials are removed by filtration and the reaction solution is subjected to HPLC for quantitative analysis. As a result, it is obtained 3-cyano-4-hydroxybenzoic acid (4-morpholinyl)amide (203 mg, 87.4%). Mp: 238-240° C.

reactant | 3-Bromo-4-hydroxybenzoic acid (4-morpholinyl)amide | 1 mmol, 286 mg | N1(CCOCC1)NC(C1=CC(=C(C=C1)O)Br)=O | C11H13BrN2O3
reactant | dimethylacetamide | 2.9 mL | CC(=O)N(C)C | C4H9NO
catalyst | zinc cyanide | 0.6 mmol, 70 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd/C | 0.05 mmol, 53 mg | [Pd] | Pd
catalyst | zinc | 0.56 mmol, 36 mg | [Zn] | Zn
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.05 mmol, 28 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-cyano-4-hydroxybenzoic acid (4-morpholinyl)amide | 203 mg, 87.4% | N1(CCOCC1)NC(C1=CC(=C(C=C1)O)C#N)=O | C12H13N3O3
